US09388189B2
(S)-2-(1-((5-(5-(Ethylamino)-1,3,4-thiadiazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a suspension of (S)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (50 mg, 0.12 mmol) and N-ethylhydrazinecarbothioamide (21 mg, 0.18 mmol) in 1 ml 1,4-dioxane was added phosphorus (V) oxychloride (12.5 μL, 0.13 mmol). The mixture was stirred at 80° C. overnight. The solvent was evaporated and the residue was poured into water and ethyl acetate. The mixture was basified to pH 10 with sodium carbonate and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was precipitated using diethyl ether, filtered, washed with cold diethyl ether and dried in a vacuum oven to obtain 14 mg (29% yield) of the title compound.

reactant | (S)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 0.12 mmol, 50 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)O | C22H19N7O3
reactant | N-ethylhydrazinecarbothioamide | 0.18 mmol, 21 mg | C(C)NC(=S)NN | C3H9N3S
reactant | phosphorus (V) oxychloride | 0.13 mmol, 12.5 μL | O(Cl)Cl.[P+5]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(1-((5-(5-(Ethylamino)-1,3,4-thiadiazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 14 mg, 29% yield | C(C)NC1=NN=C(S1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C25H24N10OS
